US08492372B2
2-PHENYL-7-[(TRIFLUOROMETHYL)THIO]-4H-1,3,2-BENZODIOXABORININ
A mixture of 3-[(trifluoromethyl)thio]phenol (10.0 g, 51.5 mmol), phenylboronic acid (6.91 g, 56.7 mmol), propionic acid (1.92 ml, 25.8 mmol) and paraformaldehyde (1.46 g, 48.7 mmol), and toluene was heated at reflux using a Dean-Stark trap to separate water formed during the reaction. Additional paraformaldehyde was added (3×1 g+7×0.5 g, 0.22 mol) and additional propionic acid was added (2×0.5 ml, 13.4 mmol). The mixture was brought to ambient temperature, quenched with water and extracted with EtOAc. The combined organic layers were washed with Na2CO3 (10%), dried (Na2SO4), filtered and evaporated to dryness (14.0 g). MS m/z (rel. intensity, 70 eV) 310 (M+, 41), 309 (19), 242 (11), 241 (bp), 240 (28), 109 (14).

reactant | 3-[(trifluoromethyl)thio]phenol | 51.5 mmol, 10.0 g | FC(SC=1C=C(C=CC1)O)(F)F | C7H5F3OS
reactant | phenylboronic acid | 56.7 mmol, 6.91 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | propionic acid | 25.8 mmol, 1.92 ml | C(CC)(=O)O | C3H6O2
reactant | paraformaldehyde | 48.7 mmol, 1.46 g | C=O | CH2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-PHENYL-7-[(TRIFLUOROMETHYL)THIO]-4H-1,3,2-BENZODIOXABORININ | C1(=CC=CC=C1)B1OC2=C(CO1)C=CC(=C2)SC(F)(F)F | C14H10BF3O2S
